US08685977B2
4-bromo-2-chloro-(difluoromethoxy)benzene
4-bromo-2-chlorophenol (1.0 g, 4.8 mmol) was dissolved in DMF (35 ml) and water (5 ml) was added followed by sodium chloro(difluoro)acetate (2.0 g, 12 mmol) and cesium carbonate (3.1 g, 9.6 mmol). The mixture was stirred for 15 minutes at room temperature and then heated to 100° C. for 2 hours under nitrogen. The mixture was partitioned between water (50 ml) and tBuOMe (50 ml). The organic phase was separated, washed brine, dried over sodium sulphate, filtered, and concentrated in vacuo to give a crude product. The crude product was purified by silica gel chromatography eluting with 0-30% EtOAc in heptanes to give a title compound (0.83 g, 67% yield) as colourless oil.

reactant | 4-bromo-2-chlorophenol | 4.8 mmol, 1.0 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | water | 5 ml | O | H2O
reactant | sodium chloro(difluoro)acetate | 12 mmol, 2.0 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | cesium carbonate | 9.6 mmol, 3.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-(difluoromethoxy)benzene | 0.83 g, 67% yield | BrC1=CC(=C(C=C1)OC(F)F)Cl | C7H4BrClF2O
